US05541169
3.0 g (13 mmol) of 4-fluorobromobenzene, 100 ml of anhydrous diethyl ether, 12 ml (19 mmol) of 1.6 M n-butyllithium (hexane solution) and 3.8 g (19 mmol) of trimethyltin chloride were subjected to reaction, treatment and purification in the same manner as in Example 13 (a) to give 970 mg of 4-flurophenyltrimethyltin as a colorless oil (yield 22%).

reactant | 4-fluorobromobenzene | 13 mmol, 3.0 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | n-butyllithium | 19 mmol, 1.6 M, 12 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 19 mmol, 3.8 g | C[Sn](C)(C)Cl
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-flurophenyltrimethyltin | 970 mg, yield 22% | FC1=CC=C(C=C1)[Sn](C)(C)C | InChI=1S/C6H4F.3CH3.Sn/c7-6-4-2-1-3-5-6;;;;/h2-5H;3*1H3;
